US03931201
N-(3-chloro-4-((6-chloro-2-pyridinyl)oxy)phenyl)propionamide
4-((6-Chloro-2-pyridinyl)oxy)-3-chlorobenzeneamine (7.1 grams; .028 mole) and propionyl chloride (2.6 grams; .028 mole) were contacted in the presence of 40 ml. of dry pyridine and the resulting reaction mixture allowed to stand at ambient temperatures for a period of about 18 hours. The reaction mixture was then poured into 250 ml. of cold water and allowed to stand for about 15 minutes. The resulting product precipitate was recovered by filtration and taken up in boiling benzene and the resulting solution dried, treated with Norite and filtered. Hexane was then added to the filtrate which was then cooled to precipitate the desired N-(3-chloro-4-((6-chloro-2-pyridinyl)oxy)phenyl)propionamide compound as a white crystalline solid having a melting point of 166°-168°C. The product was found to have carbon, hydrogen, nitrogen and chlorine contents of 55.0, 3.9, 9.0 and 22.5, respectively, as compared with the theoretical contents of 54.0, 3.9, 9.0 and 22.8, respectively, calculated for the named structure.

reactant | 4-((6-Chloro-2-pyridinyl)oxy)-3-chlorobenzeneamine | .028 mole, 7.1 grams | ClC1=CC=CC(=N1)OC1=C(C=C(C=C1)N)Cl | C11H8Cl2N2O
reactant | propionyl chloride | .028 mole, 2.6 grams | C(CC)(=O)Cl | C3H5ClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-(3-chloro-4-((6-chloro-2-pyridinyl)oxy)phenyl)propionamide | ClC=1C=C(C=CC1OC1=NC(=CC=C1)Cl)NC(CC)=O | C14H12Cl2N2O2
